US05051413
Reaction of the 2-formylamino-3-hydroxy-4-ethyl-4-pentenoic acid ethyl ester with thionyl bromide and subsequent treatment with trimethyl phosphite in a manner analogous to that described in Example 1 yields E-2-formylamino-4-ethyl-5-dimethylphosphono-3-pentenoic acid ethyl ester.

reactant | 2-formylamino-3-hydroxy-4-ethyl-4-pentenoic acid ethyl ester | C(C)OC(C(C(C(=C)CC)O)NC=O)=O | C10H17NO4
reactant | thionyl bromide | S(=O)(Br)Br | Br2OS
reactant | trimethyl phosphite | P(OC)(OC)OC | C3H9O3P
product | E-2-formylamino-4-ethyl-5-dimethylphosphono-3-pentenoic acid ethyl ester | C(C)OC(C(\C=C(\CP(=O)(OC)OC)/CC)NC=O)=O | C12H22NO6P
